US06753329B2
Synthesis of 1-[4-(2-Chloroethoxy)phenyl]ethanone
To a solution of 4′-hydroxyacetophenone (101 g, 0.74 mole) in acetone (800 mL) was added 1-bromo-2-chloroethane (638 g, 4.45 mole) followed by K2CO3 (307 g, 2.22 mole). The reaction was heated to reflux for 48 h then filtered. The K2CO3 was washed with acetone (1 L) and the filtrate was evaporated. The residue was then partitioned between EtOAc (800 mL) and 1N NaOH (250 mL). The organic layer was washed with 1N NaOH (250 mL) then dried aid evaporated to yield 146 g of the desired product (99% yield).

reactant | 4′-hydroxyacetophenone | 0.74 mole, 101 g | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | 1-bromo-2-chloroethane | 4.45 mole, 638 g | BrCCCl | C2H4BrCl
reactant | K2CO3 | 2.22 mole, 307 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 800 mL | CC(=O)C | C3H6O
product | 1-[4-(2-Chloroethoxy)phenyl]ethanone | 146 g, 99% yield | ClCCOC1=CC=C(C=C1)C(C)=O | C10H11ClO2
